US08957070B2
N,N-Dibenzyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (44 mg), dibenzylamine (32 mg), 1H-1,2,3-benzotriazol-1-ol (31 mg) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (39 mg) at 4° C., and the mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with diethyl ether to give the title compound (53 mg, yield 78%) as pale-brown crystals. melting point 198-199° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 44 mg | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | dibenzylamine | 32 mg | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 1H-1,2,3-benzotriazol-1-ol | 31 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 39 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N,N-Dibenzyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 53 mg, yield 78% | C(C1=CC=CC=C1)N(C(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1)CC1=CC=CC=C1 | C27H23N3O3S2
